US09062092B2
Compound 94d. 1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide
To a solution of ((S)-2-{3-[(R)-1-(7-bromo-quinolin-2-yl)-thylcarbamoyl]-3-methyl-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (1.92 g, 3.5 mmol) in dichloromethane (15 mL) at 0° C. was added trifluoroacetic acid (3 mL). The reaction mixture was allowed to warm to room temperature and then stirred for 4 h. The reaction mixture was concentrated and the residue was co-evaporated with toluene (3×) to give 1-((S)-2-amino-propionyl)-3-methyl-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide trifluoroacetate salt (3.5 mmol) as a brown oil. LCMS (m/z) 448.0, 450.0 [M+H], Tr=1.22 min. 1-((S)-2-Amino-propionyl)-3-methyl-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide trifluoroacetate salt (3.5 mmol) was dissolved in dichloromethane (20 mL) and the solution was cooled to 0° C. (S)-2-Hydroxy-3-methyl-butyric acid (458 mg, 3.8 mmol), N,N-diisopropylethylamine (5 mL, 28.0 mmol) and (benzotriazol-1-yloxy)tris(dimethylamino) phosphonium hexafluorophosphate (1.86 g, 4.2 mmol) were added. The reaction mixture was allowed to warm to room temperature and was stirred for 16 h. The solvent was evaporated and the residue was dissolved in ethyl acetate. The organic solution was washed with citric acid (10%), saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with a gradient of ethyl acetate/methanol 1:0 to 20:1 to afford the title compound (745 mg, 39% over 2 steps) as a white foam and as a 1:4 mixture of diastereoisomers. LCMS (m/z) 548.0, 550.0 [M+H], Tr=2.21 min.

reactant | 1-((S)-2-Amino-propionyl)-3-methyl-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide trifluoroacetate salt | 3.5 mmol | FC(C(=O)O)(F)F.BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)C1(NN(CCC1)C([C@H](C)N)=O)C
reactant | (S)-2-Hydroxy-3-methyl-butyric acid | 3.8 mmol, 458 mg | O[C@H](C(=O)O)C(C)C | C5H10O3
reactant | N,N-diisopropylethylamine | 28.0 mmol, 5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino) phosphonium hexafluorophosphate | 4.2 mmol, 1.86 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 745 mg, 39% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)C1(NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)C | C25H34BrN5O4
